Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
[O:1]=[C:2]([NH:3][C:4]12[CH2:5][CH:6]3[CH2:7][CH:8]([CH2:9][C:10]([CH2:11][OH:12])([CH2:13]3)[CH2:14]1)[CH2:15]2)[c:16]1[cH:17][cH:18][cH:19][c:20]([Cl:21])[cH:22]1>>[O:1]=[C:2]([NH:3][C:4]12[CH2:5][CH:6]3[CH2:7][CH:8]([CH2:9][C:10]([CH:11]=[O:12])([CH2:13]3)[CH2:14]1)[CH2:15]2)[c:16]1[cH:17][cH:18][cH:19][c:20]([Cl:21])[cH:22]1,[O:1]=[C:2]([NH:3][C:4]12[CH2:5][CH:6]3[CH2:7][CH:8]([CH2:9][C:10]([CH2:11][OH:12])([CH2:13]3)[CH2:14]1)[CH2:15]2)[c:16]1[cH:17][cH:18][cH:19][c:20]([Cl:21])[cH:22]1.[Cl:301][C:302](=[O:303])[C:304](=[O:305])[Cl:306].[CH3:307][S:308](=[O:309])C.CC[N:310](CC)CC>>[O:1]=[C:2]([NH:3][C:4]12[CH2:5][CH:6]3[CH2:7][CH:8]([CH2:9][C:10]([CH:11]=[O:12])([CH2:13]3)[CH2:14]1)[CH2:15]2)[c:16]1[cH:17][cH:18][cH:19][c:20]([Cl:21])[cH:22]1,Swern_oxidation,"[([308, 309], 304), ([304, 305], 305), (305, [305, 304]), ([304, 306], 306), (306, 308), ([308, 309], [309, 304]), ([304, 302], 302), ([302, 301], 301), (12, 308), ([308, 306], 306), (306, 12.1), ([12.1, 12], 12), (310, 307.1), ([307.1, 307], 307), (301, 310.1), ([310.1, 310], 310), (307, 11.1), ([11.1, 11], [11, 12]), ([12, 308], 308)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[c:1]1[n:2][cH:3][c:4]([C:5](=[O:6])[OH:7])[cH:8][c:9]1[Br:10].[OH:11][CH2:12][CH:13]1[CH2:14][CH2:15]1>>[c:1]1([O:11][CH2:12][CH:13]2[CH2:14][CH2:15]2)[n:2][cH:3][c:4]([C:5](=[O:6])[OH:7])[cH:8][c:9]1[Br:10],[Cl:101][c:1]1[n:2][cH:3][c:4]([C:5](=[O:6])[OH:7])[cH:8][c:9]1[Br:10].[OH:11][CH2:12][CH:13]1[CH2:14][CH2:15]1.[H-:301].[Na+]>>[c:1]1([O:11][CH2:12][CH:13]2[CH2:14][CH2:15]2)[n:2][cH:3][c:4]([C:5](=[O:6])[OH:7])[cH:8][c:9]1[Br:10],SNAr_alco(thi)ol(para),"[(301, 11.1), ([11.1, 11], 11), (11, 1), ([1, 9], [9, 8]), ([8, 4], [4, 5]), ([5, 6], 6), (6, [6, 5]), ([5, 4], [4, 8]), ([8, 9], [9, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CCO[C:1](=[O:2])[CH2:3][CH2:4][c:5]1[cH:6][cH:7][cH:8][c:9]2[c:10]1[B:11]([OH:12])[O:13][CH2:14]2>>[CH2:1]([OH:2])[CH2:3][CH2:4][c:5]1[cH:6][cH:7][cH:8][c:9]2[c:10]1[B:11]([OH:12])[O:13][CH2:14]2,CC[O:101][C:1](=[O:2])[CH2:3][CH2:4][c:5]1[cH:6][cH:7][cH:8][c:9]2[c:10]1[B:11]([OH:12])[O:13][CH2:14]2.[AlH4-:301].[AlH4-:302].[H+:303]>>[CH2:1]([OH:2])[CH2:3][CH2:4][c:5]1[cH:6][cH:7][cH:8][c:9]2[c:10]1[B:11]([OH:12])[O:13][CH2:14]2,ester_reduction,"[([301, 301.1], 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 2], 2), (2, 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])OC(OC(C)(C)C)=O.[CH3:8][c:9]1[cH:10][cH:11][cH:12][c:13]([S:14](=[O:15])(=[O:16])[N:17]2[CH2:18][CH:19]([NH2:20])[CH2:21][O:22][c:23]3[n:24][cH:25][c:26]([NH:27][C:28](=[O:29])[C:30]([F:31])([F:32])[F:33])[cH:34][c:35]32)[cH:36]1>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[NH:20][CH:19]1[CH2:18][N:17]([S:14]([c:13]2[cH:12][cH:11][cH:10][c:9]([CH3:8])[cH:36]2)(=[O:15])=[O:16])[c:35]2[c:23]([n:24][cH:25][c:26]([NH:27][C:28](=[O:29])[C:30]([F:31])([F:32])[F:33])[cH:34]2)[O:22][CH2:21]1,[CH3:8][c:9]1[cH:10][cH:11][cH:12][c:13]([S:14](=[O:15])(=[O:16])[N:17]2[CH2:18][CH:19]([NH2:20])[CH2:21][O:22][c:23]3[n:24][cH:25][c:26]([NH:27][C:28](=[O:29])[C:30]([F:31])([F:32])[F:33])[cH:34][c:35]32)[cH:36]1.CC(C)(C)[O:202][C:201](=O)[O:101][C:6]([O:5][C:2]([CH3:1])([CH3:3])[CH3:4])=[O:7]>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[NH:20][CH:19]1[CH2:18][N:17]([S:14]([c:13]2[cH:12][cH:11][cH:10][c:9]([CH3:8])[cH:36]2)(=[O:15])=[O:16])[c:35]2[c:23]([n:24][cH:25][c:26]([NH:27][C:28](=[O:29])[C:30]([F:31])([F:32])[F:33])[cH:34]2)[O:22][CH2:21]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(20, 6), ([6, 7], 7), (7, [7, 6]), ([6, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
